US08609847B2
(4) Preparation of 1-(4-fluorophenyl)-6-{[1-(propan-2-yl)piperidin-4-yl]oxy}-3,4-dihydroquinolin-2(1H)-one (Compound No. 75)
A suspension of 1-(4-fluorophenyl)-6-(piperidin-4-yloxy)-3,4-dihydroquinolin-2(1H)-one hydrochloride prepared in Example 7-(3) (0.30 g), potassium carbonate (0.55 g) and 2-iodopropane (0.68 g) in N,N-dimethylformamide (10 mL) was stirred at 100° C. for 1 hour. The reaction mixture was cooled to room temperature, diluted with water and extracted with chloroform. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting solvent: chloroform→chloroform/methanol=4/1) to give the titled compound (0.16 g, 52%) as a colorless solid.

reactant | 1-(4-fluorophenyl)-6-(piperidin-4-yloxy)-3,4-dihydroquinolin-2(1H)-one hydrochloride | Cl.FC1=CC=C(C=C1)N1C(CCC2=CC(=CC=C12)OC1CCNCC1)=O
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 0.68 g | IC(C)C | C3H7I
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(4-fluorophenyl)-6-{[1-(propan-2-yl)piperidin-4-yl]oxy}-3,4-dihydroquinolin-2(1H)-one | 0.16 g, 52% | FC1=CC=C(C=C1)N1C(CCC2=CC(=CC=C12)OC1CCN(CC1)C(C)C)=O | C23H27FN2O2
